US07691877B2
N2,N2-Dibenzyl-6-bromo-N4-(6-methyl-pyridin-3-ylmethyl)-3-nitropyridine-2,4-diamine
Potassium tert-butoxide (448 mg) was added portion-wise to a cooled solution (−18° C.—salt/ice bath) of N2,N2-dibenzyl-6-bromo-3-nitro-pyridine-2,4-diamine (1500 mg, 3.63 mmol) in THF (40 ml) under nitrogen. The solution changed from yellow to deep red/orange on addition of base. The solution was left to stir in the cooling bath for 5 minutes.

reactant | Potassium tert-butoxide | 448 mg | CC(C)([O-])C.[K+]
reactant | N2,N2-dibenzyl-6-bromo-3-nitro-pyridine-2,4-diamine | 3.63 mmol, 1500 mg | C(C1=CC=CC=C1)N(C1=NC(=CC(=C1[N+](=O)[O-])N)Br)CC1=CC=CC=C1 | C19H17BrN4O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N2,N2-Dibenzyl-6-bromo-N4-(6-methyl-pyridin-3-ylmethyl)-3-nitropyridine-2,4-diamine | C(C1=CC=CC=C1)N(C1=NC(=CC(=C1[N+](=O)[O-])NCC=1C=NC(=CC1)C)Br)CC1=CC=CC=C1 | C26H24BrN5O2
